US07696223B2
a) 1-Bromo-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester
Prepared in analogy to that of Example 103(a) from 4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester, NBS and BzOOBz. The title compound, ESI MS (m/z): 411 (M+H)+.

reactant | 4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2N(C=3C=CC=CC3C2C=N1)C1=CC=CC=C1)O | C20H16N2O3
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | BzOOBz | C(=O)(C1=CC=CC=C1)OOC(=O)C1=CC=CC=C1 | C14H10O4
product | 1-Bromo-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2N(C=3C=CC=CC3C2C(=N1)Br)C1=CC=CC=C1)O | C20H15BrN2O3
